US07687515B2
6-(4-Ethoxy-3-trifluoromethyl-phenyl)-2-(pyridin-3-ylaminomethyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile
A solution of 2-chloromethyl-6-(4-ethoxy-3-trifluoromethyl-phenyl)-1H-imidazo[4,5,c]pyridine-4-carbonitrile (20 mg, 0.052 mmol), diisoproplylethylamine (28.4 uL,0.16 mmol) and 3-aminopyridine (9.8 mg, 0.1 mmol) dimethylsulfoxide (500 μL) was heated in the Creator microwave at 120° C. for 5 minutes. The mixture was filtered and purified by preparative HPLC to afford the title compound. 1H NMR (MeOH) δ 8.3-8.2 (m, 5H), 7.76-7.74 (m, 2H), 7.27 (d, 1H), 6.07 (s, 2H) 4.23 (q, 2H) 1.45 (t, 3H) MS m/z 439.1 (m+1).

reactant | 2-chloromethyl-6-(4-ethoxy-3-trifluoromethyl-phenyl)-1H-imidazo[4,5,c]pyridine-4-carbonitrile | 0.052 mmol, 20 mg | ClCC=1NC2=C(C(=NC(=C2)C2=CC(=C(C=C2)OCC)C(F)(F)F)C#N)N1 | C17H12ClF3N4O
reactant | 3-aminopyridine | 0.1 mmol, 500 μL, 9.8 mg | NC=1C=NC=CC1 | C5H6N2
product | 6-(4-Ethoxy-3-trifluoromethyl-phenyl)-2-(pyridin-3-ylaminomethyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile | C(C)OC1=C(C=C(C=C1)C1=CC2=C(C(=N1)C#N)N=C(N2)CNC=2C=NC=CC2)C(F)(F)F | C22H17F3N6O
